US07410963B2
3-[1-Methyl-2-oxo-7-(2-phenoxy-phenyl)-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl]-benzonitrile
Prepared from 3-(7-iodo-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-benzonitrile Intermediate 11 using the same conditions used to prepare Example 1 but using 2-phenoxy-phenyl boronic acid instead of benzene boronic acid. The title compound (90 mg) was obtained as a beige solid, in 41% yield.

reactant | 3-(7-iodo-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-benzonitrile | IC1=CC2=C(N(C(CN=C2C=2C=C(C#N)C=CC2)=O)C)C=C1 | C17H12IN3O
reactant | 2-phenoxy-phenyl boronic acid | O(C1=CC=CC=C1)C1=C(C=CC=C1)B(O)O | C12H11BO3
product | 3-[1-Methyl-2-oxo-7-(2-phenoxy-phenyl)-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl]-benzonitrile | 90 mg, 41% yield | CN1C(CN=C(C2=C1C=CC(=C2)C2=C(C=CC=C2)OC2=CC=CC=C2)C=2C=C(C#N)C=CC2)=O | C29H21N3O2
